US04743613
A mixture of 4-methoxy-3,5-difluorobenzaldehyde (17.2 g, 0.1 mol), aminoacetaldehyde dimethyl acetal (10.5 g, 0.1 mol), and methanol (1 ml) was heated at 95° C. for 10 minutes. The resulting mixture was dissolved in ethanol (150 ml) and hydrogenated over 10% Pd on carbon (1 g) until H2 uptake slowed (about 2 hours). The catalyst was filtered and the filtrate was treated with 1.5N hydrochloric acid (80 ml) and potassium thiocyanate (10.4 g, 0.11 mol). The resulting mixture was boiled until the volume was reduced to 100 ml, then it was heated a reflux an additional 1 hour and cooled to 5° C. The crystalline precipitate was filtered, washed with water, and dried. Recrystallization from ethanol gave 1-(4'-methoxy-3',5'-difluorobenzyl)-1,3-dihydro-2H-imidazole-2-thione, 72% yield, m.p. 156°-158° C.

reactant | 4-methoxy-3,5-difluorobenzaldehyde | 0.1 mol, 17.2 g | COC1=C(C=C(C=O)C=C1F)F | C8H6F2O2
reactant | aminoacetaldehyde dimethyl acetal | 0.1 mol, 10.5 g | COC(CN)OC | C4H11NO2
reactant | hydrochloric acid | 1.5N, 80 ml | Cl | ClH
reactant | potassium thiocyanate | 0.11 mol, 10.4 g | [S-]C#N.[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 1 g | [Pd] | Pd
solvent | methanol | 1 ml | CO | CH4O
product | 1-(4'-methoxy-3',5'-difluorobenzyl)-1,3-dihydro-2H-imidazole-2-thione | 72% yield | COC1=C(C=C(CN2C(NC=C2)=S)C=C1F)F | C11H10F2N2OS
